US08809376B2
{(S)-6-[(R)-5-cyano-4-(4-methylsulfanyl-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 4-methylsulfanyl-benzyl bromide following a procedure analogous to that described for Intermediate 7. LC (method 4): tR=1.12 min; Mass spectrum (ESI+): m/z=508 [M+Na]+.

reactant | {(S)-6-[(R)-4-bromo-5-cyano-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)Br)=O | C21H18BrNO4
reactant | 4-methylsulfanyl-benzyl bromide | CSC1=CC=C(CBr)C=C1 | C8H9BrS
product | {(S)-6-[(R)-5-cyano-4-(4-methylsulfanyl-benzyl)-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C#N)CC2=CC=C(C=C2)SC)=O | C29H27NO4S
